US04957927
Proceeding as in Example 9, using 16.4 g (50 mmole) of 1-[bis(4-fluorophenyl)methoxy]-2-bromoethane, 10.3 g (50 mmole) of 3-(3-1isopropoxyphenyl)pyrrolidine and 13.8 g (100 mmole) of potassium carbonate, there was obtained after silica gel column filtration, 16.4 g (yield: 73%) of 1-[2-[bis(4-fluorophenyl) methoxy]ethyl]-3-(3-isopropoxyphenyl)pyrrolidine.

reactant | 1-[bis(4-fluorophenyl)methoxy]-2-bromoethane | 50 mmole, 16.4 g | FC1=CC=C(C=C1)C(OCCBr)C1=CC=C(C=C1)F | C15H13BrF2O
reactant | 3-(3-1isopropoxyphenyl)pyrrolidine | 50 mmole, 10.3 g | C(C)(C)OC=1C=C(C=CC1)C1CNCC1 | C13H19NO
reactant | potassium carbonate | 100 mmole, 13.8 g | C([O-])([O-])=O.[K+].[K+]
product | 1-[2-[bis(4-fluorophenyl) methoxy]ethyl]-3-(3-isopropoxyphenyl)pyrrolidine | 16.4 g, yield: 73% | FC1=CC=C(C=C1)C(OCCN1CC(CC1)C1=CC(=CC=C1)OC(C)C)C1=CC=C(C=C1)F | C28H31F2NO2
